US20010018525A1
Step 1 5-Bromo-3′-chloro-6-(2-hydroxy-ethoxy)-biphenyl-3-carboxylic acid dodecylamide
To a cooled (0° C.) solution of dodecyl amine (3.22 g, 17.64 mmol) in 50 mL anhydrous THF was added n-BuLi (7.05 mL, 17.64 mmol) dropwise. When the addition was complete, the mixture was stirred for 10 min at 0 °C. then at room temperature for 30 min. This lithiated amine was added dropwise to a cooled (0° C.) solution of 5-bromo-3′-chloro-6-(2-hydroxy-ethoxy)-biphenyl-3-carboxylic acid ethyl ester (2.5 g, 5.78 mmol) in 40 mL anhydrous THF via cannula. The reaction was stirred for 10 min at 0 °C. when the addition was complete then at room temperature overnight. Then the reaction mixture was heated to 35 °C. for 1 hour then more n-BuLi was added (0.7 mL, 1.75 mmol). The reaction was then worked up as in Step 2 of Example 135. There yielded 2.5 g, 80% of a yellow oil as desired product after flash chromatography (25% EtOAc:75% Hexanes) on silica gel.

reactant | dodecyl amine | 17.64 mmol, 3.22 g | C(CCCCCCCCCCC)N | C12H27N
reactant | n-BuLi | 17.64 mmol, 7.05 mL | [Li]CCCC
reactant | 5-bromo-3′-chloro-6-(2-hydroxy-ethoxy)-biphenyl-3-carboxylic acid ethyl ester | 5.78 mmol, 2.5 g | C(C)OC(=O)C=1C=C(C(=C(C1)Br)OCCO)C1=CC(=CC=C1)Cl | C17H16BrClO4
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 5-Bromo-3′-chloro-6-(2-hydroxy-ethoxy)-biphenyl-3-carboxylic acid dodecylamide | C(CCCCCCCCCCC)NC(=O)C=1C=C(C(=C(C1)Br)OCCO)C1=CC(=CC=C1)Cl | C27H37BrClNO3
